US09403816B2
2-(4-(Trifluoromethoxy)phenyl)malonic acid
A mixture of diethyl 2-(4-(trifluoromethoxy)phenyl)malonate (5.6 g, 17.486 mmol, Intermediate 13: step a) and an aqueous 3 M NaOH solution was stirred in a 100° C. oil bath for 1 hour, cooled to room temperature, poured into ice water and acidified with 6 N aqueous HCl. The aqueous mixture was extracted with EtOAc. The EtOAc extract was dried over Na2SO4, filtered, and evaporated in vacuo to provide the title compound.

reactant | diethyl 2-(4-(trifluoromethoxy)phenyl)malonate | FC(OC1=CC=C(C=C1)C(C(=O)OCC)C(=O)OCC)(F)F | C14H15F3O5
reactant | NaOH | 3 M | [OH-].[Na+]
reactant | HCl | 6 N | Cl | ClH
product | 2-(4-(Trifluoromethoxy)phenyl)malonic acid | FC(OC1=CC=C(C=C1)C(C(=O)O)C(=O)O)(F)F | C10H7F3O5
